US05008321
Reaction of oleyl alcohol with epichlorohydrin in a molar ratio of 1 : 1 to give oleyl glycidyl ether,

reactant | oleyl alcohol | C(CCCCCCC\C=C/CCCCCCCC)O | C18H36O
reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
product | oleyl glycidyl ether | C(C1CO1)OCCCCCCCC\C=C/CCCCCCCC | C21H40O2
